US05294623
1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde
1(a) 75 ml of a 1M hexane solution containing diisobutylaluminum hydride were added to 400 ml of tetrahydrofuran under a stream of nitrogen, and the mixture was cooled at -78° C. Whilst the mixture's internal temperature was -15° C., 20.25 g of 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbonitrile (prepared as described in Preparation 4) were added to the mixture over a period of 40 minutes, and the resulting mixture was stirred for 30 minutes at -15° C. The mixture was then allowed to stand overnight at room temperature. At the end of this time, the mixture was placed in an ice bath, and 15 ml of methanol, followed by 100 ml of a saturated aqueous solution of ammonium chloride, were added. The reaction mixture was then extracted with ethyl acetate. The extract was purified by silica gel column chromatography. Elution with 3% by volume methanol in methylene chloride afforded 14.67 g (yield 72%) of the title compound as an oily substance.

reactant | hexane | 1M | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-[2-bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbonitrile | 20.25 g | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C#N)C1=CC=C(C=C1)F | C21H22F2N2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-[2-Bis(4-fluorophenyl)methoxyethyl]-4-piperidinecarbaldehyde | 14.67 g, yield 72% | FC1=CC=C(C=C1)C(OCCN1CCC(CC1)C=O)C1=CC=C(C=C1)F | C21H23F2NO2
